US07829560B2
N-[4-({2-[3-(Dimethylamino)pyrrolidin-1-yl]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-morpholin-4-ylbenzamide (Compound B365).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and dimethyl-pyrrolidin-3-yl-amine according to conditions described in general procedure C. Mp: 106-108° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.07-2.17 (m, 10 H), 2.45-3.15 (m, 3 H), 3.27 (t, J=4.4 Hz, 4 H), 3.77 (t, J=5.1 Hz, 4H), 6.15 (m, 1 H), 7.05 (d, J=12.1 Hz, 1 H), 7.27 (d, J=9.5 Hz, 1 H), 7.42-7.62 (m, 5 H), 7.85-7.87 (m, 1 H), 8.00 (d, J=7.7 Hz, 1 H), 8.23 (d, J=5.5 Hz, 1 H), 10.47 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | dimethyl-pyrrolidin-3-yl-amine | CN(C1CNCC1)C | C6H14N2
product | N-[4-({2-[3-(Dimethylamino)pyrrolidin-1-yl]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-morpholin-4-ylbenzamide | CN(C1CN(CC1)C1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O)C | C31H33FN6O3
